US04666962
Octadecyl-3-[N,N-diethylaminoxy]propanoate
The procedure of Example I is repeated using 4.46 g of N,N-diethylhydroxylamine, 16.03 g of n-octadecylacrylate and 0.56 g of potassium-tert-butoxide in 100 ml of tetrahydrofuran, to afford the title compound as a colorless liquid.

reactant | N,N-diethylhydroxylamine | 4.46 g | C(C)N(O)CC | C4H11NO
reactant | n-octadecylacrylate | 16.03 g | C(CCCCCCCCCCCCCCCCC)OC(C=C)=O | C21H40O2
reactant | potassium-tert-butoxide | 0.56 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Octadecyl-3-[N,N-diethylaminoxy]propanoate | C(CCCCCCCCCCCCCCCCC)OC(CCON(CC)CC)=O | C25H51NO3
